US09255094B2
Preparation of 2,4,8-trimethyl-5-(2-(6-(trifluoromethyl)pyridin-3-yl)ethyl)-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole (Compound No. 1-51)
To a solution of 2,3,4,5-tetrahydro-2,4,8-trimethyl-1H-pyrido[4,3-b]indole (200 mg, 0.934 mmol) in N-methyl-2-pyrolidone (2.5 mL) was added powdered KOH (463 mg, 8.27 mmol) and allow to stir for 10 min at RT. 2-Trifluoromethyl-5-vinyl pyridine (323 mg, 1.87 mmol) was added and stirred further for 12 h at RT. The reaction was monitored by TLC. After completion of reaction, water (10 mL) was added and the mixture filtered. Water was added to the filtrate and the product extracted with EtOAc (50 mL). The organic layer was dried over sodium sulfate, evaporated in vacuum and purified by HPLC to obtain the product.

reactant | 2,3,4,5-tetrahydro-2,4,8-trimethyl-1H-pyrido[4,3-b]indole | 0.934 mmol, 200 mg | CN1CC2=C(NC=3C=CC(=CC23)C)C(C1)C | C14H18N2
reactant | KOH | 8.27 mmol, 463 mg | [OH-].[K+]
reactant | 2-Trifluoromethyl-5-vinyl pyridine | 1.87 mmol, 323 mg | FC(C1=NC=C(C=C1)C=C)(F)F | C8H6F3N
reactant | water | 10 mL | O | H2O
solvent | N-methyl-2-pyrolidone | 2.5 mL | CN1C(CCC1)=O | C5H9NO
product | 2,4,8-trimethyl-5-(2-(6-(trifluoromethyl)pyridin-3-yl)ethyl)-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | CN1CC2=C(N(C=3C=CC(=CC23)C)CCC=2C=NC(=CC2)C(F)(F)F)C(C1)C | C22H24F3N3
